*

.subckt 


.include "/Applications/KiCad/KiCad.app/Contents/SharedSupport/symbols/Simulation_SPICE.sp"
C10 Net-_U10--_ 0 C
R10 INPUT Net-_U10--_ R_US
R11 +5V Net-_U10-+_ R_US
R12 Net-_R12-Pad1_ Net-_U10-+_ R_US
XU10 Net-_U10-+_ Net-_U10--_ unconnected-_U10-V+-Pad3_ unconnected-_U10-V--Pad4_ Net-_R12-Pad1_ kicad_builtin_opamp
C20 unconnected-_C20-Pad1_ unconnected-_C20-Pad2_ C
R20 Net-_R12-Pad1_ Net-_U20--_ R_US
XU20 Net-_U20-+_ Net-_U20--_ unconnected-_U20-V+-Pad3_ unconnected-_U20-V--Pad4_ OUTPUT kicad_builtin_opamp
R21 unconnected-_R21-Pad1_ unconnected-_R21-Pad2_ R_US
R22 OUTPUT ; hello
+ Net-_U20-+_ R_US $ hi

.ends
    
